* c:\users\91809\esim-workspace\3bit_dac\3bit_dac.cir
.options wnflag=1

.include switch.sub
.include 2bit_DAC.sub
x1 vrefh net-_x1-pad2_ d0 d1 vdd net-_x1-pad6_ 2bit_DAC
x2 net-_x1-pad2_ vrefl d0 d1 vdd net-_x2-pad6_ 2bit_DAC
x3 d2 vdd net-_x1-pad6_ net-_x2-pad6_ vout switch
* u1  vrefh vrefl d0 d1 d2 vdd net-_u1-pad7_ port

Vdd vdd 0 3.3
Vd0 d0 0 pulse(0 1.8 0ns 1ps 1ps 5us 10us)
Vd1 d1 0 pulse(0 1.8 0ns 1ps 1ps 10us 20us)
Vd2 d2 0 pulse(0 1.8 0ns 1ps 1ps 20us 40us)
Vrefh vrefh 0 3.3
Vrefl vrefl 0 0

.tran 1us 40us

* Control Statements 
.control
run
plot d0 d1 d2 vout
.endc
.end
